US05118681
To a stirred, cooled (0° C.) solution of 14 g (0.093 mol) of ethyl malonyl chloride in 50 mL of methylene chloride under nitrogen was added dropwise a solution of 10 g (0.093 mol) of benzylamine in 50 mL of methylene chloride over a half-hour period. After the addition the reaction mixture was allowed to warm to room temperature and stir for 2 h. The reaction mixture was cooled to 0° C. and a solution of 13 mL (0.093 mol) of triethylamine in 50 mL of methylene chloride was added dropwise over 2 h. Additional methylene chloride was added to keep the slurry of salts stirring efficiently. After the addition the reaction mixture was kept cold by placing it in the freezer. After 12 h the reaction was allowed to warm to room temperature and was immediately washed with water three times to remove the salts. The organic layer was dried over magnesium sulfate and filtered. Removal of solvent gave a crude product which was purified by flash-chromatography (silica gel, 50% ethyl acetate/hexane eluent) to give 12.5 g (61% yield) of ethyl N-benzylmalonamide.

reactant | ethyl malonyl chloride | 0.093 mol, 14 g | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | benzylamine | 0.093 mol, 10 g | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 0.093 mol, 13 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | ethyl N-benzylmalonamide | 12.5 g, 61% yield | C(C)C(C(=O)NCC1=CC=CC=C1)C(=O)N | C12H16N2O2
